US07572820B2
1-{[5-(5-Bromo-3-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-2-cyclopropyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 using 2-cyclopropyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 3-bromo-5-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]pyridine: 1H NMR (400 MHz, CDCl3) δ 9.05 (d, J=1.7 Hz, 1H), 8.82 (d, J=1.9 Hz, 1H), 8.39 (m, 1H), 7.69 (d, J=8.5 Hz, 1H), 7.59 (d, J=8.5 Hz, 1H), 6.52 (s, 1H), 5.80 (s, 2H), 2.06 (m, 1H), 1.19 (m, 2H), 0.92 (m, 2H); MS (ES) m/z 488 (M+1, isotope for Br) and 490 (M+1, isotope for Br).

reactant | 2-cyclopropyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C1(CC1)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C13H9F3N2
reactant | 3-bromo-5-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]pyridine | BrC=1C=NC=C(C1)C=1OC(=NN1)CCl | C8H5BrClN3O
product | 1-{[5-(5-Bromo-3-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-2-cyclopropyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | BrC=1C=C(C=NC1)C1=NN=C(O1)CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)C1CC1 | C21H13BrF3N5O
